US05763437
To a solution of p-toluenesulfonic acid salt of L-alanine benzyl ester (7.03 g, 0.02 mol) and triethylamine (4.55 g, 0.045 mol) in methylene chloride (80 ml) was added dropwise a solution of 3-nitrobenzoyl chloride (3.71 g, 0.02 mol) in methylene chloride (20 ml) under ice-cooling and stirring. After the addition was completed, the mixture was stirred for 0.5 hour under the same condition and for 0.5 hour at ambient temperature. The mixture was washed with diluted hydrochloric acid and water twice successively. After drying over MgSO4, the solvent was removed in vacuo to give N-(3-nitrobenzoyl)-L-alanine benzyl ester (6.54 g, 99.6% yield) as a colorless crystal, which was used in a following reaction without further purification. 1H-NMR (CDCl3, δ): 1.56 (3H, d, J=7.2 Hz), 4.86 (1H, q, J=7.2 Hz), 5.24 (2H, dd, J=12.3 Hz, 13.6 Hz), 6.98 (1H, br, d, J=7.0 Hz), 7.37 (5H, s), 7.63 (1H, t, J=8.0 Hz), 8.14 (1H, dd, J=1.2Hz, 8.0 Hz), 8.35 (1H, d, t, J=8.0 Hz, 0.92 Hz), 8.62 (1H, t, J=0.92 Hz); APCI-MS: 329 (M+ +1)

reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | L-alanine benzyl ester | 0.02 mol, 7.03 g | C(C1=CC=CC=C1)OC([C@@H](N)C)=O | C10H13NO2
reactant | triethylamine | 0.045 mol, 4.55 g | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 0.02 mol, 3.71 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(3-nitrobenzoyl)-L-alanine benzyl ester | 6.54 g, 99.6% yield | C(C1=CC=CC=C1)OC([C@@H](NC(C1=CC(=CC=C1)[N+](=O)[O-])=O)C)=O | C17H16N2O5
